US07176242B2
Step 2: Methyl 1-butyl-4-iodo-1H-indole-6-carboxylate
To a mixture of methyl 4-iodo-1H-indole-6-carboxylate (1.0 g) in DMF (10 mL) was added potassium hydroxide (0.392 g) and 1-iodobutane (0.8 mL). The mixture was heated to 80° C. for 18 h. The mixture was cooled to room temperature and partitioned between water and ethyl acetate. The layers were separated and the organic layer washed twice with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Column chromatography on silica gel (100 mL) using 20% ethyl acetate in hexanes as eluent to give 0.73 g of the title compound: 1H NMR (CDCl3) δ 0.940, 1.32, 1.81, 3.95, 4.15, 6.45, 7.31, 8.09, 8.18.

reactant | methyl 4-iodo-1H-indole-6-carboxylate | 1.0 g | IC1=C2C=CNC2=CC(=C1)C(=O)OC | C10H8INO2
reactant | potassium hydroxide | 0.392 g | [OH-].[K+]
reactant | 1-iodobutane | 0.8 mL | ICCCC | C4H9I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 1-butyl-4-iodo-1H-indole-6-carboxylate | 0.73 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)OC)I | C14H16INO2
